US04199592
A mixture of 124 g (0.484 mole) of 4,5-bis(4-fluorophenyl)imidazole, 84 g (1.0 mole) dihydropyran, 20 g boron trifluoride etherate and 1 l ethyl acetate was heated at reflux over a weekend. Analysis by TLC (ethyl acetate) showed the presence of some unchanged starting material, so 20 g (~0.24 mole) of dihydropyran and 5 g boron trifluoride etherate was added and heating was continued overnight. The mixture was then diluted with 1 l ether and washed with 10% sodium bicarbonate solution (3×1 l). The organic layer was dried and concentrated on a rotary evaporator. The residual solid was recrystallized from methylcyclohexane (removing some insoluble starting material by filtration) to give 140.2 g (85%) of 4,5-bis(4-fluorophenyl)-1-(2-tetrahydropyranyl)imidazole as a white solid, mp 149°-152°. F-NMR indicated purity ~95%. A smaller run was chromatographed to give pure material mp 158°-9°. IR: 3.25μ (=CH); 3.38, 3.49μ (sat. CH); 6.22, 6.28, 6.41, 6.60, 6.69μ (C=C and/or C=N); 8.20μ (CF); 9μ region (C--O--C). H-NMR: m(1.4-2.1 δ, 6H); m (3.4 δ,1H); m (4.0 δ, 1H); m (4.7 δ, 1H); m (6.6-7.5 δ, 8H); s (7.8 δ, 1H). F-NMR: two multiplets (112.4 δ and 116.5 δ, each decouples to a singlet).

reactant | 4,5-bis(4-fluorophenyl)imidazole | 0.484 mole, 124 g | FC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)F | C15H10F2N2
reactant | dihydropyran | 1.0 mole, 84 g | O1CCCC=C1 | C5H8O
reactant | boron trifluoride etherate | 20 g | B(F)(F)F.CCOCC
reactant | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
reactant | dihydropyran | ~0.24 mole, 20 g | O1CCCC=C1 | C5H8O
solvent | ether | 1 l | CCOCC | C4H10O
catalyst | boron trifluoride etherate | 5 g | B(F)(F)F.CCOCC
product | 4,5-bis(4-fluorophenyl)-1-(2-tetrahydropyranyl)imidazole | 140.2 g, 85% | FC1=CC=C(C=C1)C=1N=CN(C1C1=CC=C(C=C1)F)C1OCCCC1 | C20H18F2N2O
